US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-(4-hydroxy-2-methyl-benzyl)-heptanoic acid methyl ester (example 126 c]) was reacted with [rac]-cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol (example 121 a]) in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to yield 2-(4-cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methoxy}-2-methyl-benzyl)-heptanoic acid methyl ester as a mixture of two diastereomeric racemates as yellow oil.

reactant | [rac]-2-(4-hydroxy-2-methyl-benzyl)-heptanoic acid methyl ester | COC(C(CCCCC)CC1=C(C=C(C=C1)O)C)=O | C16H24O3
reactant | [rac]-cyclopropyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | C1(CC1)C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C15H14F3NOS
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | heptanoic acid methyl ester | COC(CCCCCC)=O | C8H16O2
